US05624937
1-[4-(4-ethoxycarbonyl-2-quinolylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea
2-(4-aminophenylthio)-4-ethoxycarbonylquinoline (6.0 moles, 2.0 g) and 4-chloro-3-trifluoromethylphenylisothiocyanate (6.0 mmoles, 1.4 g) were reacted according to procedure C to yield 3.0 g, 89% of the title compound. Mass Spec (FD) 561. Calculated for C26H19ClF3N3O2S2 : C, 55.56; H, 3.41; N, 7.48. Found: C, 55.38 H, 3.38; N, 7.36.

reactant | 2-(4-aminophenylthio)-4-ethoxycarbonylquinoline | 6.0 moles, 2.0 g | NC1=CC=C(C=C1)SC1=NC2=CC=CC=C2C(=C1)C(=O)OCC | C18H16N2O2S
reactant | 4-chloro-3-trifluoromethylphenylisothiocyanate | 6.0 mmoles, 1.4 g | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
product | 1-[4-(4-ethoxycarbonyl-2-quinolylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea | 3.0 g, 89% | C(C)OC(=O)C1=CC(=NC2=CC=CC=C12)SC1=CC=C(C=C1)NC(=S)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C26H19ClF3N3O2S2
